US08202865B2
Step 3: {tert-Butoxycarbonyl-[3-(N-hydroxycarbamimidoyl)-benzyl]-amino}-acetic acid tert-butyl ester
To a solution of {tert-butoxycarbonyl-[3-cyanobenzyl]-amino}-acetic acid tert-butyl ester (3.5 g, 0.010 mol) in Ethanol (100 mL) under N2, was added hydroxylamine (1.66 mL, 0.0505 mol) in one portion. After being stirred at RT for 12 h, the reaction mixture was concentrated under reduced pressure to afford the title compound as a pale yellow viscous liquid (3.8 g, 99%). 1H NMR (DMSO-d6, 400 MHz) δ 9.59 (s, 1H), 7.53-7.56 (m, 2H), 7.29-7.33 (m, 1H), 7.24-7.26 (m, 1H), 5.76 (s, 2H), 4.37-4.39 (s, 2H), 3.74 (s, 2H), 1.35-1.37 (s, 18H). LC/MS (Method A): 380.0 (M+H)+. HPLC (Method B) Rt 5.91 min (Purity: 90.3%).

reactant | {tert-butoxycarbonyl-[3-cyanobenzyl]-amino}-acetic acid tert-butyl ester | 0.010 mol, 3.5 g | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C#N)C(=O)OC(C)(C)C)=O | C19H26N2O4
reactant | hydroxylamine | 0.0505 mol, 1.66 mL | NO | H3NO
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | {tert-Butoxycarbonyl-[3-(N-hydroxycarbamimidoyl)-benzyl]-amino}-acetic acid tert-butyl ester | 3.8 g, 99% | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C(NO)=N)C(=O)OC(C)(C)C)=O | C19H29N3O5
